US04898874
5-Chloro-7-[2-oxo-2-(1-pyrrolidinyl)ethyl]-3-phenyl-2,1-benzisoxazole
The title compound is prepared by reacting the acid chloride of 5-chloro-3-phenyl-2,1-benzisoxazole-7-acetic acid with pyrrolidine in an aprotic solvent and washing the reaction mixture with sodium bicarbonate and isolating the product by crystallization.

reactant | 5-chloro-3-phenyl-2,1-benzisoxazole-7-acetic acid | ClC=1C=C(C=2C(=C(ON2)C2=CC=CC=C2)C1)CC(=O)O | C15H10ClNO3
reactant | pyrrolidine | N1CCCC1 | C4H9N
product | 5-Chloro-7-[2-oxo-2-(1-pyrrolidinyl)ethyl]-3-phenyl-2,1-benzisoxazole | ClC=1C=C(C=2C(=C(ON2)C2=CC=CC=C2)C1)CC(N1CCCC1)=O | C19H17ClN2O2
